US06403814B1
To a mixture of 3-benzyloxy-4-hydroxy-5-iodo benzaldehyde (23.1 g, 0.065 mol) and potassium carbonate (11.70 g, 0.084 mol) in DMF (55 ml) was added 1-bromo propane (12.03 g, 0.09 mol). The reaction mixture was stirred at 75-80° C. for 12 h. The reaction mixture was cooled to room temperature, diluted with water and extracted with ether (480 ml). The ether layer was dried Na2SO4), filtered and concentrated. The crude product was purified on silica gel column using (1:18) EtOAc: light petroleum as eluent to give the 3-benzyloxy-4-propoxy-5-Iodo benzaldehyde (21.4 g, 83%). TLC: Ethyl acetate:light petroleum (1:9), Rf=0.5; 1H NMR (CDCl3, 200 MHz): δ 1.03 (t, J=7.21 Hz, 3H), 1.75 (m, 2H), 4.05 (t, J=6.66 Hz, 2H), 5.15 (s, 2H), 7.3-7.45 (m, 6H), 7.83 (d, J=1.54 Hz, 1H), 9.79 (s, 1H).

reactant | 3-benzyloxy-4-hydroxy-5-iodo benzaldehyde | 0.065 mol, 23.1 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1O)I | C14H11IO3
reactant | potassium carbonate | 0.084 mol, 11.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo propane | 0.09 mol, 12.03 g | BrCCC | C3H7Br
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-benzyloxy-4-propoxy-5-Iodo benzaldehyde | 21.4 g, 83% | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1OCCC)I | C17H17IO3
